Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
vision changes
 
Major Surgical or Invasive Procedure:
nONE

 
History of Present Illness:
The patient is an ___ year old right handed woman with a
history of hypertension, hyperlipidemia, and hypothyroidism who
presents with acute onset loss of right vision described as 
white
out of her vision x10-15 seconds without associated headache who
was called as a CODE STROKE. She is accompanied today by her
husband.

The patient was in her usual state of health today until 3:30 
pm,
when she had just come upstairs from putting her clothes in the
dryer and had sat down to have a cup of tea. While sitting, she
had the sudden onset of loss of vision in her right eye lasting
___ seconds. There was no gradual concentric loss of her
vision, and she says that her vision was "white out" (not
blackened). She tried to rub her eye to make it go away. She did
not close each eye individually. She did not have associated
headache. She has never had symptoms like this before, and her
vision is now back to normal.

On ROS, she denies diplopia, dysarthria, dysphagia. She denies
weakness/numbness. She denies fevers/chills, cough/cold,
diarrhea, or pain/burning on urination.

She was called as a CODE STROKE in the ___ ED at 17:23 pm.  

NIHSS Score:
1a. LOC: 0
1b. LOC Questions: 0
1c. Commands: 0
2. Best Gaze: 0
3. Visual Fields: 0
4. Facial Palsy: 0
5. Motor Arm: 0
6. Motor Leg: 0
7. Limb Ataxia: 0
8. Sensory: 0
9. Best Language: 0
10. Dysarthria: 0
11. Extinction/Neglect: 0
NIHSS Score Total: 0
 
PMH:
Hypertension
Hyperlipidemia
Hypothyroidism
s/p appendectomy
s/p "ruptured intestine"
s/p left ankle surgery for torn ligament
s/p bilateral cataract surgery

 
Past Medical History:
HCTZ 25 mg daily
Lipitor 20 mg daily
Synthroid ___ mcg (vs. 50 mcg) daily (patient is unsure of dose)
MVI daily
OscalD daily
Calcitrol ___ and ___

She does not take a daily ASA

 
Social History:
___
Family History:
Her father, mother, and brother all died of an
MI.

 
Physical Exam:
Exam on admission and discharge (unchanged):

VS: temp 98.6, bp 165/86, HR 86, RR 20, SaO2 94% on RA
Genl: Awake, alert, NAD, very pleasant
HEENT: Sclerae anicteric, no conjunctival injection, oropharynx
clear, purple lesion on right lateral tongue but patient denies
tongue bite
CV: Regular rate with occasional premature contraction, Nl S1,
S2, no murmurs, rubs, or gallops
Chest: CTA bilaterally anteriorly and laterally, no wheezes,
rhonchi, rales
Abd: +BS, soft, NTND abdomen
 
Neurologic examination: 
Mental status: Awake and alert, cooperative with exam, normal
affect. Oriented to person, place, and date. Speech is fluent
with normal repetition; naming intact. No dysarthria. Reading
intact. No right-left confusion. No evidence of apraxia or
neglect.
 
Cranial Nerves: Pupils equally round and reactive to light, 3 to
2 mm bilaterally. Visual fields are full to confrontation.
No papilledema ___ plaques. No cherry red spots. 
Visual
acuity was ___ in the right eye and ___ in the left eye.
Extraocular movements intact bilaterally without nystagmus.
Sensation intact V1-V3. Facial movement symmetric. Hearing 
intact
to finger rub bilaterally. Palate elevation symmetric.
Sternocleidomastoid and trapezius full strength bilaterally.
Tongue midline, movements intact.
 
Motor: Normal tone bilaterally. No observed myoclonus, 
asterixis,
or tremor. No pronator drift.
  Del Tri Bi  WE FE FF  IP  H  Q DF PF TE 
R  ___  ___   ___  ___  
L  ___  ___   ___  ___    
 
Sensation: Intact to pinprick throughout. No extinction to DSS.
 
Reflexes: 2+ and symmetric in biceps, brachioradialis, triceps,
and knees. 0 and symmetric in ankles. Toes equivocal 
bilaterally.
 
Coordination: Finger-nose-finger, fine finger movements, and RAM
normal.  
 
Gait: narrow based, normal arm swing and initiation.
 
Pertinent Results:
Labs on admission and discharge:

___ 05:37PM BLOOD WBC-7.6 RBC-4.72 Hgb-14.0 Hct-40.8 MCV-86 
MCH-29.7 MCHC-34.4 RDW-14.8 Plt ___
___ 05:37PM BLOOD Neuts-75.4* Lymphs-17.8* Monos-3.7 
Eos-2.5 Baso-0.6

___ 05:37PM BLOOD ___ PTT-27.0 ___

___ 05:37PM BLOOD Glucose-98 UreaN-21* Creat-1.0 Na-137 
K-4.0 Cl-96 HCO3-29 AnGap-16

___ 04:55AM BLOOD CK(CPK)-80
___ 05:37PM BLOOD CK(CPK)-97
___ 04:55AM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 05:37PM BLOOD cTropnT-<0.01

___ 05:37PM BLOOD Calcium-9.5 Phos-3.1 Mg-2.1
___ 04:55AM BLOOD Calcium-9.0 Phos-3.9 Mg-2.2 Cholest-148

___ 04:55AM BLOOD Triglyc-91 HDL-55 CHOL/HD-2.7 LDLcalc-75

___ 04:55AM BLOOD %HbA1c-5.8

___ 05:37PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Urine studies:
___ 05:40AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 05:40AM URINE Color-Straw Appear-Clear Sp ___
___ 05:40AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG

Imaging:

CTA head and neck: ___

IMPRESSION: 
  
1. Age appropriate central and cortical involutional changes 
without evidence 
of acute intracranial process. 
  
2. Marked atherosclerotic calcification of the cavernous 
internal carotid 
arteries, bilaterally, without evidence of hemodynamically 
significant 
stenosis involving the intra- or extra-cranial arterial 
vasculature. 

MRI brain ___ without contrast:

IMPRESSION: 
  
1. No MR evidence of acute intracranial process. 
  
2. Central and cortical involutional changes as expected for the 
patient's age of ___ years. 

Chest Xray - preliminary - no acute abnormality.
 
Brief Hospital Course:
___ year old woman with a history of HTN, HL, and hypothyroidism 
presented with acute onset loss of right sided vision (white out 
of her vision)  for ___ seconds without
associated headache.  Patient was evaluated as a CODE STROKE due 
to ED initiation and her NIHSS score was 0.  She was not deemed 
a candidate for thrombolysis given
her low score and prior ressolution of symptoms. 

On admission, her examination was non focal, namely there was no 
temporal area tenderness, no papilledema, no red cherry spots 
and her visual acuity was ___ L and R corrected 
respectively.  

CTA head/neck showed marked calcification along cavernous 
internal carotid arteries bilaterally, but was otherwise 
unremarkable.  Head MRI w/o contrast showed no evidence of 
stroke.  It was felt that patient had a temporary central 
retinal artery occlusion from calcifications as mentioned above. 
 She was started on ASA 81mg daily and her statin was increased 
to 40 mg daily.  She instructed to follow up with her 
opthalmologist within one week of discharge, her PCP and 
neurology follow up was arranged for her at time of discharge.

 
Medications on Admission:
HCTZ 25 mg daily
Lipitor 20 mg daily
Synthroid ___ mcg daily (patient is unsure of dose)
MVI daily
OscalD daily
Calcitrol ___ and ___

 
Discharge Medications:
1. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
2. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO once a 
day.  
4. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
6. Calcium Carbonate  Oral
7. Calcitriol  Oral

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Amarosis fugax
Secondary: HTN, HL 

 
Discharge Condition:
Hemodynamically stable.  Neurological examination intact.

 
Discharge Instructions:
You were admitted to ___ with an episode of loss of your 
vising on the right side.  This resolved by the time you had 
arrived at the hospital.  You underwent testing, MRI, CAT scan 
to assess for stroke. This was negative.  It did show however 
small amounts of calcium that may have cause a temporary 
occlusion of the blood vessel to your eye.

For this, you were started on Aspirin 81 mg daily.  You lipitor 
dose was increased to 40mg daily

No other changes were made to your medications.

Should you develop any further changes in vision, loss of 
vision, difficulty with speech, swallowing, chewing, wekaness, 
numbness, tingling, difficulties with balance or any other 
symptom concerning to you, please call your doctor or go to the 
emergency room.
 
Followup Instructions:
___